US07737166B2
tert-Butyl [2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)prop-2-en-1-yl]carbamate (I-325)
With cooling with ice, triphenyl phosphine (230 mg, 0.876 mmol), diethyl azodicarbonate (40% toluene solution) (382 mg, 0.876 mmol) and diphenylphosphorylazide (188 μl, 0.876 mmol) were added to a tetrahydrofuran (6 ml) solution of 2-cyclopropyl-7-(1-hydroxymethylvinyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-324) (193 mg, 0.584 mmol), followed by stirring at room temperature for 19 hours. The reaction liquid was concentrated under reduced pressure, then water was added, followed by extraction with ethyl acetate, and the obtained organic layer was washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v), the obtained eluate was dissolved in a mixed solvent of tetrahydrofuran (5 ml) and water (1 ml), then triphenyl phosphine (230 mg, 0.876 mmol) was added, followed by stirring at room temperature for 3 hours. The reaction liquid was concentrated under reduced pressure, dissolved in chloroform, washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, chloroform:methanol=10:1, v/v), the obtained eluate was dissolved in dichloromethane (6 ml), then di-tert-butyl dicarbonate (191 mg, 0.876 mmol) was added, followed by stirring at room temperature for 15 hours. The reaction liquid was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v) to obtain, the entitled compound (98.0 mg, 39%) as a white solid.

reactant | triphenyl phosphine | 0.876 mmol, 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diphenylphosphorylazide | 0.876 mmol, 188 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-cyclopropyl-7-(1-hydroxymethylvinyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.584 mmol, 193 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2C(=C)CO)C2=CC=CC=C2)C)C#N | C21H18N2O2
reactant | triphenyl phosphine | 0.876 mmol, 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl dicarbonate | 0.876 mmol, 191 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | tert-Butyl [2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)prop-2-en-1-yl]carbamate | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)C(CNC(OC(C)(C)C)=O)=C)C2=CC=CC=C2)C | C26H27N3O3
